US08071592B2
(e) 1,1-Dimethylethyl {1-[2-(6-chloro-1-oxido-3-oxo-1,2,4-benzotriazin-4(3H)-yl)ethyl]-4-piperidinyl}(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)carbamate
A mixture of (6-chloro-1-oxido-3-oxo-1,2,4-benzotriazin-4(3H)-yl)acetaldehyde (89 mg, 0.372 mmol) and 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)-4-piperidinylcarbamate (for a synthesis see WO2004/058144 Example 99(h)) (117 mg, 0.334 mmol) in chloroform (5 ml) and MeOH (0.5 ml) was stirred for 2 h before addition of NaBH(OAc)3 (212 mg, 1.002 mmol). The reaction was stirred for 1 h before addition of sat. aq NaHCO3 (50 ml). The reaction was then extracted with 10% MeOH in DCM (3×200 ml). The combined organic phases were dried, evaporated and the crude residue purified by chromatography on silica gel using a 0-10% MeOH/DCM gradient to provide the desired compound as a yellow oil (81 mg, 42%).

reactant | (6-chloro-1-oxido-3-oxo-1,2,4-benzotriazin-4(3H)-yl)acetaldehyde | 0.372 mmol, 89 mg | ClC=1C=CC2=C(N(C(N=[N+]2[O-])=O)CC=O)C1 | C9H6ClN3O3
reactant | 1,1-dimethylethyl (2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)-4-piperidinylcarbamate | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCNCC2 | C18H27N3O4
reactant | NaBH(OAc)3 | 1.002 mmol, 212 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 0.5 ml | CO | CH4O
product | 1,1-Dimethylethyl {1-[2-(6-chloro-1-oxido-3-oxo-1,2,4-benzotriazin-4(3H)-yl)ethyl]-4-piperidinyl}(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)carbamate | 81 mg, 42% | ClC=1C=CC2=C(N(C(N=[N+]2[O-])=O)CCN2CCC(CC2)N(C(OC(C)(C)C)=O)CC2=CC3=C(C=N2)OCCO3)C1 | C27H33ClN6O6
